US08420655B2
5-{1-tert-Butyl-2-[2-(3,5-dimethyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (64 mg, 0.25 mmol) in DMF (3 mL) is added 2-(3,5-dimethyl-pyrazol-1-yl)-benzaldehyde (50 mg, 0.25 mmol) at room temperature. Oxone (150 mg, 0.25 mmol) in H2O (1 mL) is added and the solution is stirred at the same temperature for 3 hours. The reaction is poured into water (25 mL) and sodium thiosulfate (sat., 50 mL). The product is extracted into EtOAc (2×) and the combined organics are then dried (MgSO4), filtered, and concentrated. Purification via flash chromatography (4 g silica gel, 0-6% MeOH/CH2Cl2) affords the title compound (50 mg, 46%). LCMS (ESMS): m/z 438.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.25 mmol, 64 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 2-(3,5-dimethyl-pyrazol-1-yl)-benzaldehyde | 0.25 mmol, 50 mg | CC1=NN(C(=C1)C)C1=C(C=O)C=CC=C1 | C12H12N2O
reactant | Oxone | 0.25 mmol, 150 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 50 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 5-{1-tert-Butyl-2-[2-(3,5-dimethyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 50 mg, 46% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)N2N=C(C=C2C)C | C26H27N7
